US08877937B2
Synthesis of 1-(2-bromo-4-cyanophenyl)imidazole
3-Bromo-4-fluorobenzonitrile (10.0 g, 50 mmol, 1 eq) and imidazole (5.1 g, 75 mmol, 1.5 eq) are dissolved in dimethylformamide (100 ml) and carefully admixed with sodium hydride (60% in mineral oil, 3.0 g, 75 mmol, 1.5 eq) under nitrogen at room temperature. The mixture is stirred at 100° C. for 4 hours. After cooling to room temperature, water (10 ml) is added and the mixture is evaporated to dryness. The residue is washed with water and petroleum ether and purified by column chromatography (silica gel, methyl tert-butyl ether/ethyl acetate gradient).

reactant | 3-Bromo-4-fluorobenzonitrile | 50 mmol, 10.0 g, 1 eq | BrC=1C=C(C#N)C=CC1F | C7H3BrFN
reactant | imidazole | 75 mmol, 5.1 g, 1.5 eq | N1C=NC=C1 | C3H4N2
reactant | sodium hydride | 75 mmol, 3.0 g, 1.5 eq | [H-].[Na+]
reactant | water | 10 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(2-bromo-4-cyanophenyl)imidazole | BrC1=C(C=CC(=C1)C#N)N1C=NC=C1 | C10H6BrN3
